US07820825B2
A portion of 60% NaH in mineral oil (2.9 g, 71.8 mmol, 1.1 eq) was pre-washed with hexane and suspended in dry DMF under nitrogen. The slurry was cooled in an ice bath and a solution of 2,2,2-trifluoro-N-(4-methyl-2-nitrophenyl)-acetamide (16.2 g, 65.3 mmol, 1.0 eq) in dry DMF was added dropwise over 15 min. The cooling bath was removed and the mixture was stirred for 30 min. The reaction mixture was cooled again and a solution of 4-bromomethylbenzoic acid methyl ester (20 g, 65.3 mmol, 1.0 eq) in dry DMF was added dropwise over 10 min. The reaction mixture was stirred at room temperature for 18 h and evaporated under reduced pressure to give a residue. The residue was partitioned between ethyl acetate and water. The organic layer was washed sequentially with water and brine, dried (Na2SO4) and concentrated to give a yellow solid. The yellow solid was purified by column chromatography. (Silica gel 230-400 mesh: eluent CHCl3 MeOH:0→5%) to give 4-{[(4-methyl-2-nitrophenyl)-(2,2,2-trifluoroacetyl)amino]methyl}benzoic acid methyl ester, yield: 59%. 1H NMR (400 MHz, CDCl3): 7.97 (m, 3H); 7.27 (m, 3H); 6.76 (d, J=8 Hz, 1H); 5.66 & 4.26(2H); 3.92 (s, 3H); 2.46(s, 3H).

reactant | NaH | [H-].[Na+]
reactant | 2,2,2-trifluoro-N-(4-methyl-2-nitrophenyl)-acetamide | 65.3 mmol, 16.2 g, 1.0 eq | FC(C(=O)NC1=C(C=C(C=C1)C)[N+](=O)[O-])(F)F | C9H7F3N2O3
reactant | 4-bromomethylbenzoic acid methyl ester | 65.3 mmol, 20 g, 1.0 eq | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
solvent | hexane | CCCCCC | C6H14
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-{[(4-methyl-2-nitrophenyl)-(2,2,2-trifluoroacetyl)amino]methyl}benzoic acid methyl ester | yield: 59% | COC(C1=CC=C(C=C1)CN(C(C(F)(F)F)=O)C1=C(C=C(C=C1)C)[N+](=O)[O-])=O | C18H15F3N2O5
